US05958924
7.3. 4-(2-bromoethyl) -6-cyano-1-methyl-2(1H)-quinolone
0.24 g (1.05 mmol) of 6- cyano-4-(2-hydroxyethyl)-1-methyl-2(1H)-quinolone is added in small amounts to 0.48 g (1.14 mmol) of dibromotriphenylphosphorane in 14 ml of dichdoromethane at room temperature. After 75 minutes of stirring at room temperature, the reaction medium is poured into 200 ml of dichloromethane and the mixture is washed with water. The organic phase is dried over sodium sulphate, filtered and condensed under vacuum. The white residue is ground in diethylether. The solid obtained is taken up in a minimum of dichloromethane, the mixture is filtered rapidly through a layer of silica, eluting with ether, and the filtrate is evaporated.

reactant | 6- cyano-4-(2-hydroxyethyl)-1-methyl-2(1H)-quinolone | 1.05 mmol, 0.24 g | C(#N)C=1C=C2C(=CC(N(C2=CC1)C)=O)CCO | C13H12N2O2
reactant | dibromotriphenylphosphorane | 1.14 mmol, 0.48 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 4-(2-bromoethyl) -6-cyano-1-methyl-2(1H)-quinolone | BrCCC1=CC(N(C2=CC=C(C=C12)C#N)C)=O | C13H11BrN2O
